US03960892
5-o-Carboxybenzylidenerhodanine
To a hot stirred solution of 20.5 g. (134 mM) of phthalaldehydic acid and 17.95 g. (135 mM) of rhodanine in 90 ml. of glacial acetic acid is added 36.0 g. (438 mM) of sodium acetate. While heating the resulting solution to reflux, a precipitate forms and an additional 30 ml. of acetic acid is added. After refluxing the mixture for 0.5 hour, it is cooled, poured into water, and filtered to separate a yellow solid. The solid is washed with water and boiled with 500 ml. of isopropanol. The resulting mixture is cooled and filtered to separate 31.14 g. (87.5%) of the 5-o-carboxybenzylidenerhodanine as yellow needles, m.p. 276°-278°.

reactant | phthalaldehydic acid | 134 mM | C(C=1C(C=O)=CC=CC1)(=O)O | C8H6O3
reactant | rhodanine | 135 mM | S1C(=S)NC(=O)C1 | C3H3NOS2
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | sodium acetate | 438 mM | C(C)(=O)[O-].[Na+]
solvent | water | O | H2O
product | 5-o-Carboxybenzylidenerhodanine | C(=O)(O)C1=C(C=C2C(NC(S2)=S)=O)C=CC=C1 | C11H7NO3S2
